US05001159
(a) 4-Chloro-N-[2-(2-methylpropoxy)phenyl]butanamide
A solution of 44 ml of 4-chlorobutyryl chloride in 350 ml of ether is added dropwise to a suspension of 60 g of 2-(2-methylpropoxy)benzenamine and 199 g of potassium carbonate in 500 ml of ether, cooled in an icebath, and the mixture is stirred overnight at room temperature. The mixture is filtered and the filtrate washed successively with 200 ml of 1 N sodium hydroxide, three times 100 ml o& water and 100 ml of saturated sodium chloride solution. The ethereal solution is dried over magnesium sulphate and the solvent evaporated off. 85.8 g of syrupy product are collected, and used without further treatment in the following stage.

reactant | 4-chlorobutyryl chloride | 44 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 2-(2-methylpropoxy)benzenamine | 60 g | CC(COC1=C(C=CC=C1)N)C | C10H15NO
reactant | potassium carbonate | 199 g | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 350 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 4-Chloro-N-[2-(2-methylpropoxy)phenyl]butanamide | ClCCCC(=O)NC1=C(C=CC=C1)OCC(C)C | C14H20ClNO2
